US07851473B2
(4) 1-[4-(2-Chlorophenyl)-1,3-thiazol-2-yl]piperazine
A 4 N solution (100 ml) of hydrogen chloride in ethyl acetate was added to a solution of tert-butyl 4-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate (4.15 g, 10.9 mmol) in ethyl acetate (100 ml), the mixture was stirred at room temperature for 5 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in water, neutralized with a 1 N sodium hydroxide aqueous solution, and extracted with chloroform. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give 2.07 g (67.6%) of the desired product as a solid.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 10.9 mmol, 4.15 g | ClC1=C(C=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H22ClN3O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(2-Chlorophenyl)-1,3-thiazol-2-yl]piperazine | 2.07 g, 67.6% | ClC1=C(C=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H14ClN3S
